US07745484B2
Step 1:(4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-4-((2-chloropyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate.
The title compound was synthesized in a manner analogous to Example 475, step I via (4S,55)-tert-butyl 4-((2-chloropyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate in the presence of TBSCl and imidazole and was used without further purification. Step 2: (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-4-((2-chloro-6-methylpyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate

reactant | (4S,55)-tert-butyl 4-((2-chloropyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate | ClC1=NC=CC(=C1)C[C@@H]1N(C(O[C@@H]1CO)(C)C)C(=O)OC(C)(C)C | C17H25ClN2O4
reactant | TBSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-4-((2-chloropyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC(=NC=C1)Cl | C23H39ClN2O4Si
